US09302989B2
N-{4-[4-(phenylsulfonyl)piperazin-1-yl]phenyl}-1,3-dihydro-2H-isoindole-2-carboxamide
The title compound was prepared as described in Example 283, substituting benzenesulfonyl chloride for methanesulfonyl chloride and N-(4-(piperazin-1-yl)phenyl)isoindoline-2-carboxamide for 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide. 1H NMR (300 MHz, DMSO-d6) δ ppm 8.14 (s, 1H), 7.65-7.80 (m, 5H), 7.35-7.41 (m, 2H), 7.27-7.37 (m, 4H), 6.81-6.85 (m, 2H), 4.72 (s, 4H), 3.09-3.15 (m, 4H), 2.99-3.04 (m, 4H); MS (ESI(−)) m/e 461 (M−H)−.

reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-(4-(piperazin-1-yl)phenyl)isoindoline-2-carboxamide | N1(CCNCC1)C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C19H22N4O
reactant | 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide | NC=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C=C1)C(NCCC)=O | C19H22N4O2
product | N-{4-[4-(phenylsulfonyl)piperazin-1-yl]phenyl}-1,3-dihydro-2H-isoindole-2-carboxamide | C1(=CC=CC=C1)S(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C25H26N4O3S
